US09259470B2
Potassium 2-methylpropan-2-olate (0.026 g, 0.24 mmol) and tetrabutylammonium iodide (0.0067 g, 0.018 mmol) were added to 4-(2-(methylthio)pyrimidin-4-yl)pyrimidin-2(1H)-one (0.040 g, 0.18 mmol) suspended in THF (4 mL) cooled in ice. After 10 minutes, a solution of 2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl methanesulfonate (0.10 g, 0.27 mmol) in THF (1 mL) was added. The mixture was stirred at room temperature overnight and then heated at 90° C. for 3 days. Due to incomplete reaction, the material was transferred to a microwave vial and heated in a microwave at 130° C. for 1 hour. The reaction mixture was evaporated, and the residue was chromatographed on a 10 g Biotage SNAP column with 1:1 hexane/EtOAc. Fractions 8-13 contained the desired 1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylthio)pyrimidin-4-yl)pyrimidin-2(1H)-one (0.030 g, 0.059 mmol, 33% yield) as a film.

reactant | Potassium 2-methylpropan-2-olate | 0.24 mmol, 0.026 g | CC(C)(C)[O-].[K+]
reactant | 4-(2-(methylthio)pyrimidin-4-yl)pyrimidin-2(1H)-one | 0.18 mmol, 0.040 g | CSC1=NC=CC(=N1)C1=NC(NC=C1)=O | C9H8N4OS
reactant | 2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl methanesulfonate | 0.27 mmol, 0.10 g | CS(=O)(=O)OC(CO[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)Cl)F | C15H24ClFO4SSi
catalyst | tetrabutylammonium iodide | 0.018 mmol, 0.0067 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylthio)pyrimidin-4-yl)pyrimidin-2(1H)-one | 0.059 mmol, 0.030 g, 33% yield | [Si](C)(C)(C(C)(C)C)OCC(C1=CC(=C(C=C1)Cl)F)N1C(N=C(C=C1)C1=NC(=NC=C1)SC)=O | C23H28ClFN4O2SSi
